US09023858B2
A) diethyl 2-carbamimidoylpentane-1,5-dioate
To a solution of ethyl 3-amino-3-iminopropionoate hydrochloride (10 g) and triethylamine (18.4 mL) in ethanol (100 mL) was added ethyl acrylate (7.15 mL), and the mixture was stirred overnight at room temperature. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.5 g).

reactant | ethyl 3-amino-3-iminopropionoate hydrochloride | 10 g | Cl.NC(CC(=O)OCC)=N
reactant | triethylamine | 18.4 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acrylate | 7.15 mL | C(C=C)(=O)OCC | C5H8O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | diethyl 2-carbamimidoylpentane-1,5-dioate | 2.5 g | C(N)(=N)C(C(=O)OCC)CCC(=O)OCC | C10H18N2O4
